US06784192B2
5-Cyano-2-methoxy-3-pyridinecarboxaldehyde
2.00 g of 5-bromo-2-methoxy-3-pyridinecarboxaldehyde dimethyl acetal was dissolved in 25 ml of propionitrile. To the mixture were added 449 mg of sodium cyanide, 152 mg of cuprous iodide and 462 mg of tetrakis(triphenylphosphine)palladium, followed by stirring at 100° C. for 45 minutes in nitrogen atmosphere. A diluted ammonia was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, to give an oil. The oil was dissolved in 16 ml of acetone, 4 ml of 5N-hydrochloric acid was added thereto, and the mixture was left for 30 minutes at room temperature. An aqueous sodium carbonate aqueous solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by silica gel column chromatography (toluene:ethyl acetate=1:1), to give 843 mg of the title compound as white crystals.

reactant | 5-bromo-2-methoxy-3-pyridinecarboxaldehyde dimethyl acetal | 2.00 g | COC(C=1C(=NC=C(C1)Br)OC)OC | C9H12BrNO3
reactant | sodium cyanide | 449 mg | [C-]#N.[Na+]
reactant | ammonia | N | H3N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | propionitrile | 25 ml | C(CC)#N | C3H5N
solvent | acetone | 16 ml | CC(=O)C | C3H6O
catalyst | tetrakis(triphenylphosphine)palladium | 462 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Cyano-2-methoxy-3-pyridinecarboxaldehyde | 843 mg | C(#N)C=1C=C(C(=NC1)OC)C=O | C8H6N2O2
